US07442701B2
Description 52: 2-Chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
Prepared from 2-chloro-6-methoxypyridine and bis(pinacolato)diboron according to the procedure of Description 47 (5.2 g, 79%).

reactant | 2-chloro-6-methoxypyridine | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | ClC1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC | C12H17BClNO3
